Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Found down at home
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with remote history of stage IV colorectal cancer presents
after being found down in her apartment. Most history was
obtained through daughter ___ as patient wanted to sleep
and could not remember the incident well. 

The patient has had URI symptoms for 3 days prior to admission.
She had a very runny nose that the family described as "a 
flood."
She also had a cough productive of clear sputum. There were no
measured fevers. Her grandchildren had recent URIs. The patient
was not eating or drinking much. During this time the patient
felt extremely weak, and had to sit on the couch all day. Per 
her
daughter this was a significant change from her baseline, which
involved living on her own and taking care of her ADLs. On 
___
morning around 8am, the patient's daughter called the patient's
house and there was no answer. The daughter hypothesizes that 
she
got up to answer the phone and then had a fall. After not 
getting
an answer, the daughter went to the patient's house and found 
her
down about 1 hour after making the phone call. The patient was
conscious and on her back. She helped the patient up, and said
that she seemed very weak and had less control over her legs. 
She
then presented to the ED after being concerned for stroke.  

In the ED, initial vitals were:  
98.5 84 129/80 16 99% RA ___ 114 
 - Exam notable for:  no cspine tenderness or stepoffs, a*Ox3, 
no
facial trauma stage I pressures ulcers
 - Labs notable for:  
wbc 10.9  hgb 15.3 plts 151 
134  95  12  
------------<136 
4.0  23  0.6 
trop <0.01
CK 408 
lactate 2.1

Imaging: 
- CT ___: no acute intracranial process
- CT C-spine: 1. No fracture. 2. Minimal anterolisthesis of C2 
on
C3 and C7 on T1 is likely degenerative in nature. 
- CXR: No acute intrapulmonary process
- Hip X-ray: No fracture or dislocation.  Significant hip
arthritis noted bilaterally.

Patient was given: 1 IV NS  

Upon arrival to the floor, patient reports feeling well overall.
Denies pain, fevers/chills.   

 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in
HPI  
 
Past Medical History:
Remote history of stage IV colorectal cancer

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION
Vitals: 97.6 99 / 64 74 18 96 RA   
 General: Somnolent, but arousable to loud voice and touch, NAD
 HEENT: sclera anicteric, PERRLA, dry mucous membranes  
 Lungs: coarse upper airway sounds, otherwise clear to
auscultation bilaterally, no wheezes, rales, ronchi  
 CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
 GU: no foley  
 Ext: warm, well perfused, 2+ pulses
 Neuro: Intermittently somnolent, but oriented to person name of
hospital and date; CNs2-12 intact, motor function grossly normal 


DISCHARGE:
Vitals: 97.9 135 / 74 74 18 94 RA
General: Alert and interactive, lying comfortably in bed in NAD
Lungs: Clear to auscultation bilaterally, no wheezes or crackles
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
Abdomen: soft, non-tender, non-distended, bowel sounds present
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: Alert and oriented to person, name of hospital and exact 
date. 4+/5 strength UE and ___ b/l symmetrically. Better able to 
move on her own, such as rolling to side, compared to prior
 
Pertinent Results:
ADMISSION:

___ 12:15PM BLOOD WBC-10.9* RBC-4.95 Hgb-15.3 Hct-44.3 
MCV-90 MCH-30.9 MCHC-34.5 RDW-12.6 RDWSD-41.5 Plt ___
___ 12:15PM BLOOD Neuts-79.0* Lymphs-10.1* Monos-10.1 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.58* AbsLymp-1.10* 
AbsMono-1.10* AbsEos-0.02* AbsBaso-0.02
___ 12:00PM BLOOD Glucose-136* UreaN-12 Creat-0.6 Na-134 
K-4.0 Cl-95* HCO3-23 AnGap-20
___ 12:00PM BLOOD CK(CPK)-408*
___ 12:00PM BLOOD cTropnT-<0.01
___ 04:30AM BLOOD Calcium-8.3* Phos-2.8 Mg-1.7
___ 12:37PM BLOOD Lactate-2.1*

IMAGING/STUDIES:
CT ___ w/o contrast ___
FINDINGS: 
 
There is no evidence of infarction, hemorrhage, edema, or mass.  
There is
prominence of the ventricles and sulci suggestive of 
involutional changes. 
Incidental note is made of bilateral basal ganglia 
calcifications.  There are
vascular calcifications in the bilateral cavernous carotids.
 
There is no evidence of fracture.  There is mucosal thickening 
in the
bilateral maxillary sinuses, sphenoid sinuses and ethmoid air 
cells. 
Secretions in the nasal cavity.  The visualized portion of the 
frontal
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized
portion of the orbits are unremarkable.
 
IMPRESSION:
 
 
-No fracture or acute intracranial process.
- Paranasal sinus disease.

CT C-spine ___
FINDINGS: 
 
No fractures are identified.There is minimal anterolisthesis of 
C2 on C3 and
C7 on T1, likely degenerative in nature.  There is minimal 
widening or lack of
disc space loss at C7-T1 level, there is no adjacent edema, 
there is no
diffuse vertebral body fusion to suggest intervertebral disc 
space injury. 
Normal alignment of the facet joints, there is no widening of 
the interspinous
distances.  There are multilevel degenerate changes with loss of 
disc height
and posterior disc osteophyte complexes.  There is 
mild-to-moderate central
canal narrowing at C4-C5, C5-C6 levels.  There is multilevel 
moderate to
severe foraminal narrowing.  There is no prevertebral edema.  
The thyroid and
included lung apices are unremarkable.
 
IMPRESSION:
 
 
-No fracture.
-Multilevel degenerative changes, see above.
 
CXR ___
IMPRESSION: 
 
No previous images.  Cardiac silhouette is within normal limits 
and there is
no vascular congestion, pleural effusion, or acute focal 
pneumonia.  No
evidence of pneumothorax.

X-ray hip ___
FINDINGS: 
 
AP view of the pelvis and AP and lateral views of the right hip 
were provided.
The bony pelvic ring appears intact.  The SI joints are grossly 
unremarkable. 
Both hips appear to align normally.  There is degenerative 
disease at both
hips with significant loss of joint space and subchondral 
sclerosis.  No
femoral neck fracture is detected.  No soft tissue 
abnormalities.
 
IMPRESSION: 
 
No fracture or dislocation.  Significant hip arthritis noted 
bilaterally.

MR ___ ___
FINDINGS: 
 
There are FLAIR and T2 hyperintense foci in the periventricular 
and
subcortical white matter.  These findings are nonspecific.  
There are focal
calcifications in the bilateral basal ganglia, nonspecific and 
within normal
limits given the patient's age.  There is no evidence of 
infarction or other
diffusion abnormality.  There is no evidence of hemorrhage.  
There is no
evidence of mass, mass effect, or midline shift.  Ventricles and 
sulci are
prominent and likely secondary to age related involutional 
changes.  There is
partial opacification of the bilateral ethmoid air cells, 
maxillary sinuses,
and sphenoid sinuses.  Mastoid air cells and middle ear cavities 
are patent. 
Major vascular flow voids are preserved.
 
IMPRESSION:
 
 
1. No evidence of edema, mass, hemorrhage or infarction.
2. There are FLAIR/T2 hyperintense foci in the periventricular 
and subcortical
white matter. These are nonspecific but can be seen as sequelae 
of chronic
small vessel ischemic disease.

TTE ___
Findings
Multiplanar reconstructions were generated and confirmed on an 
independent workstation.
LEFT ATRIUM: Normal LA volume index. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. 

LEFT VENTRICLE: Mild symmetric LV hypertrophy with normal cavity 
size, and regional/global systolic function (3D LVEF>55%). 
Estimated cardiac index is high (>4.0L/min/m2). TDI E/e' >13, 
suggesting PCWP>18mmHg. No resting or Valsalva inducible LVOT 
gradient. 

AORTA: Focal calcifications in aortic root. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Moderate 
mitral annular calcification. Physiologic MR ___ normal 
limits). 

TRICUSPID VALVE: Normal tricuspid valve leaflets with trivial 
TR. Normal PA systolic pressure. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Suboptimal image quality - poor subcostal 
views. Suboptimal image quality - poor suprasternal views. 
Suboptimal image quality as the patient was difficult to 
position. Suboptimal image quality - patient unable to 
cooperate.
Conclusions
The left atrial volume index is normal. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (3D LVEF = 72 %). The 
estimated cardiac index is high (>4.0L/min/m2). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). There is no left ventricular outflow obstruction 
at rest or with Valsalva. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Physiologic mitral regurgitation is seen (within 
normal limits). The estimated pulmonary artery systolic pressure 
is high normal. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Aortic valve sclerosis. Increased PCWP. 
 
Brief Hospital Course:
___ woman with no active medical issues living in the community 
who presented after being found down by her daughter. Recent hx 
was notable for rhinorrhea for which she'd taken one dose of 
Sudafed before coming in. Upon arrival she underwent CXR, CT C 
spine, hip x rays, CT ___, all of which were negative for 
pathology. UA was normal. She received IV fluid resuscitation. 
Exam upon arrival to the floor showed normal neuro exam and full 
strength. Work up included an MRI brain which only showed small 
vessel disease; monitoring on telemetry which showed no 
significant arrhythmia; and ECHO which only showed mild LVH, no 
valvular disease. Her symptoms most likely represented 
orthostatic hypotension in setting of viral URI. She was 
discharged home with full services. 

TRANSITIONAL ISSUES:
[] has stage 1 pressure ulcer on her sacrum, please monitor
[] would recommend rechecking orthostatics at clinic (of note 
she never had documented orthostasis during this admission but 
received IV fluid prior to checking)
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Senna 8.6 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Senna 8.6 mg PO DAILY  
3.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
orthostatic hypotension
viral upper respiratory infection

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to ___ after a fall. We did imaging to make 
sure you had no broken bones and no injury to your ___. These 
were all negative. An ultrasound of your heart did not show any 
problems with your heart, and you had no abnormal heart rhythms 
on the monitor. 

We think you had a viral respiratory infection that made you 
dehydrated. 

When you leave the hospital, please be sure to take in plenty of 
fluids.  

It was a pleasure to care for you,

Your ___ Team
 
Followup Instructions:
___